US03960847
9-Hydroxy-4-oxo-4H-pyrido[1,2-α]pyrimidine-3-carboxylic Acid, Ethyl Ester
Diethylbenzene Process: A mixture of 66.0 g of 2-amino-3-pyridinol, 220.0 g of diethyl ethoxymethylenemalonate, and 1.0 liter of diethylbenzene was heated so that the internal temperature reached 140° in 1 hour, was kept for 1 hour at 140°, then heated so that the temperature rose to 180° in 1 hour, and then kept 1 hour at 180°. During this entire heating period, 50 ml. of distillate was collected. The solution was allowed to cool spontaneously, was cooled at 0°, filtered, and the solid washed with diisopropyl ether to give 130.0 g of product, after drying at 56° in vacuo. The m.p. was 175°-177° and a mixture m.p. with the product isolated in (a) above was 175°-177°. The ir and pmr spectra of the two samples were superimposable. The yield was 93%.

reactant | 2-amino-3-pyridinol | 66.0 g | NC1=NC=CC=C1O | C5H6N2O
reactant | diethyl ethoxymethylenemalonate | 220.0 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | diethylbenzene | 1.0 liter | C(C)C1=C(C=CC=C1)CC | C10H14
product | 9-Hydroxy-4-oxo-4H-pyrido[1,2-α]pyrimidine-3-carboxylic Acid, Ethyl Ester | 130.0 g, yield was 93% | OC1=CC=CN2C1=NC=C(C2=O)C(=O)OCC | C11H10N2O4
